* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1072.asc
* Generated by LTspice 24.1.9 for Windows.
L1 IN N001 150µ Rser=0.02 Rpar=5000
D1 N001 OUT 1N5819
R1 OUT N002 10.7K
R2 N002 0 1.24K
R3 N003 N004 1K
C2 OUT 0 500µ Rser=15M
C3 N004 0 1µ
V1 IN 0 5
X§U1 N003 N002 0 N001 IN LT1072
Rload OUT 0 48
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 25m startup
.lib LT1072.sub
.backanno
.end
